US07776847B2
Ethylenediamine (1.5 mL, 24 mmol) was added dropwise to a solution of 3-chloro-5-nitrobenzo[d]isothiazole (250 mg, 1.2 mmol) in acetonitrile (1 mL). The reaction mixture was microwaved at 120° C. for 10 min. The reaction mixture was concentrated under reduced pressure. The resulting residue was diluted with water and the aqueous mixture was extracted with ethyl acetate. The organic extract was concentrated under reduced pressure and the crude product was purified by column chromatography, on silica gel, eluting with a mixture of 2% methanol in dichloromethane and selected fractions were combined and concentrated under reduced pressure to yield N1-(5-nitrobenzo[d]isothiazol-3-yl)ethane-1,2-diamine (100 mg) as a yellow solid.

reactant | Ethylenediamine | 24 mmol, 1.5 mL | C(CN)N | C2H8N2
reactant | 3-chloro-5-nitrobenzo[d]isothiazole | 1.2 mmol, 250 mg | ClC1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C7H3ClN2O2S
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N1-(5-nitrobenzo[d]isothiazol-3-yl)ethane-1,2-diamine | 100 mg | [N+](=O)([O-])C=1C=CC2=C(C(=NS2)NCCN)C1 | C9H10N4O2S
